US08026244B2
(a) 4-{[(3,5-Dimethylisoxazol-4-yl)methyl]amino}-1H-imidazole-5-carboxamide
The title compound was prepared in accordance with the general method described in Example 17(e) using 3,5-dimethylisoxazole-4-carbaldehyde (0.50 g, 4.0 mmol), 5-amino-imidazole-4-carboxamide (0.50 g, 4.0 mmol), acetic acid (0.23 mL, 4.0 mmol) and sodium cyanoborohydride (0.30 g, 4.8 mmol) with the exception that after stirring o.n., more sodium cyanoborohydride (0.04 g, 0.6 mmol) was added and the reaction mixture refluxed for 2 h. The reaction mixture was then concentrated in vacuo and the crude product was triturated with ethyl ether and the solid removed by filtration. The filtrate was concentrated to give the title compound (0.91 g, 97% yield). This material was used in the next step without further purification. MS (ESI) m/z 236 (M+1).

reactant | 3,5-dimethylisoxazole-4-carbaldehyde | 4.0 mmol, 0.50 g | CC1=NOC(=C1C=O)C | C6H7NO2
reactant | 5-amino-imidazole-4-carboxamide | 4.0 mmol, 0.50 g | NC1=C(N=CN1)C(=O)N | C4H6N4O
reactant | acetic acid | 4.0 mmol, 0.23 mL | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 4.8 mmol, 0.30 g | C(#N)[BH3-].[Na+]
reactant | sodium cyanoborohydride | 0.6 mmol, 0.04 g | C(#N)[BH3-].[Na+]
product | 4-{[(3,5-Dimethylisoxazol-4-yl)methyl]amino}-1H-imidazole-5-carboxamide | 0.91 g, 97% yield | CC1=NOC(=C1CNC=1N=CNC1C(=O)N)C | C10H13N5O2
